US05356904
A mixture of formic acid (0.19 ml) and acetic anhydride (0.4 ml) is stirred with heating at 50°-60° C. for 1.5 hour. Thereto is added 1-{1-[4-(4-aminobutoxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (0.6 g) at room temperature and the mixture is stirred at room temperature for 13 hours. The reaction mixture is poured into ice-water and extracted with ethyl acetate. The extract is washed with aqueous sodium hydrogen carbonate, water and saline solution and dried with sodium sulfate. The solvent is distilled off and the resulting residue is purified by silica gel column chromatography (solvent: dichloromethane:methanol=50:1→25:1) to give 1-{1-[4-(4-formylaminobutoxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (0.49 g).

reactant | acetic anhydride | 0.4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-{1-[4-(4-aminobutoxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 0.6 g | NCCCCOC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C25H31N3O3
solvent | formic acid | 0.19 ml | C(=O)O | CH2O2
product | 1-{1-[4-(4-formylaminobutoxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 0.49 g | C(=O)NCCCCOC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C26H31N3O4
